US06734180B1
Using 2-(tert-butoxycarbonylamino)-5-[(E)-2-(4-methylphenyl)ethenyl]indan (20 mg, 0.060 mmol) synthesized in Preparation Example 2, 4N hydrochloric acid-dioxane (2.0 ml) and acetic acid (6.0 ml), a similar procedure to Example 24 was carried out to obtain 2-amino-5-[(E)-2-(4-methylphenyl)ethenyl]indan hydrochloride (16 mg, 0.06 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-5-[(E)-2-(4-methylphenyl)ethenyl]indan | 0.060 mmol, 20 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)\C=C\C1=CC=C(C=C1)C | C23H27NO2
reactant | hydrochloric acid dioxane | 4N, 2.0 ml | Cl.O1CCOCC1
solvent | acetic acid | 6.0 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5-[(E)-2-(4-methylphenyl)ethenyl]indan hydrochloride | 0.06 mmol, 16 mg | Cl.NC1CC2=CC=C(C=C2C1)\C=C\C1=CC=C(C=C1)C | InChI=1S/C18H19N.ClH/c1-13-2-4-14(5-3-13)6-7-15-8-9-16-11-18(19)12-17(16)10-15;/h2-10,18H,11-12,19H2,1H3;1H/b7-6+;
